US05760058
2 g of p-toluenesulfonic acid was added to a solution of 230 g of 4-oxo-1-benzylpiperidine and 221 g of 2-phenethylamine in 1 liter of toluene. The mixture was refluxed for 1 hour while removing the generated water using a Dean-Stark trap. The reaction mixture was concentrated under reduced pressure. To the residue was added 1 liter of ethanol. To the mixture being ice-cooled was slowly added 22 g of sodium boron hydride. The resulting mixture was stirred at room temperature for 4 hours. The reaction mixture was ice-cooled, and then was made acidic by slow addition of concentrated hydrochloric acid. The resulting crystals were collected by filtration. The crystals were dissolved in water. The solution was made alkaline with a 25% aqueous sodium hydroxide solution and then extracted with methylene chloride. The extract was water-washed, dried with anhydrous sodium sulfate, and concentrated under reduced pressure to obtain 222.2 g of 4-(2-phenylethylamino)-1-benzylpiperidine as a light yellow oily substance.

reactant | 4-oxo-1-benzylpiperidine | 230 g | O=C1CCN(CC1)CC1=CC=CC=C1 | C12H15NO
reactant | 2-phenethylamine | 221 g | C1=CC=C(C=C1)CCN | C8H11N
solvent | toluene | 1 liter | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 4-(2-phenylethylamino)-1-benzylpiperidine | 222.2 g | C1(=CC=CC=C1)CCNC1CCN(CC1)CC1=CC=CC=C1 | C20H26N2
